US05472964
Step 1: 2-Chloro-5-methylthieno[3,2-b]pyridine
To a solution 5-methylthieno[3,2-b]pyridine (3.60 g, 24 mmol) and N,N-diisopropylamine (100 uL) in THF (80 mL) at -78° C. was added dropwise 16 mL of n-BuLi (1.6M, 25.6 mmol). The mixture was stirred at -78° C. for 20 min and then transfered via a cannula to a solution of N-chlorosuccinimide (4.5 g, 34 mmol) in THF (300 mL) at -10° C. The mixture was stirred at -10° C. for 30 min. Saturated NH4Cl solution was then added and the product was extracted with EtOAc, dried over MgSO4, and concentrated to an oil. Chromatography of the crude oil on silica gel (eluted with 15% EtOAc in hexane) yielded 3.60 g (81%) of the title compound.

reactant | 5-methylthieno[3,2-b]pyridine | 24 mmol, 3.60 g | CC1=CC=C2C(=N1)C=CS2 | C8H7NS
reactant | N,N-diisopropylamine | 100 uL | C(C)(C)NC(C)C | C6H15N
reactant | n-BuLi | 25.6 mmol, 1.6M, 16 mL | [Li]CCCC
reactant | N-chlorosuccinimide | 34 mmol, 4.5 g | ClN1C(CCC1=O)=O | C4H4ClNO2
reactant | NH4Cl | [NH4+].[Cl-]
solvent | THF | 80 mL | C1CCOC1 | C4H8O
solvent | THF | 300 mL | C1CCOC1 | C4H8O
product | 2-Chloro-5-methylthieno[3,2-b]pyridine | 3.60 g, 81% | ClC1=CC2=NC(=CC=C2S1)C | C8H6ClNS
